US07157455B2
3-[4-[4-Amino-5-(5-fluoro-2-methoxy-benzoyl)-pyrimidin-2-ylamino]-piperidine-1-sulfonyl]-thiophene-2-carboxylic acid methyl ester
This compound was prepared from [4-amino-2-(piperidin-4-ylamino)-pyrimidin-5-yl]-(5-fluoro-2-methoxy-phenyl)-methanone, Example 59, and 2-carbomethoxy-3-thiophenesulfonyl chloride (Maybridge) by the procedure described in Example 152. HR-MS (ES, m/z) calculated for C23H25FN5O6S2 [(M+H)+] 550.1225, observed 550.1232.

reactant | [4-amino-2-(piperidin-4-ylamino)-pyrimidin-5-yl]-(5-fluoro-2-methoxy-phenyl)-methanone | NC1=NC(=NC=C1C(=O)C1=C(C=CC(=C1)F)OC)NC1CCNCC1 | C17H20FN5O2
reactant | 2-carbomethoxy-3-thiophenesulfonyl chloride | C(=O)(OC)C=1SC=CC1S(=O)(=O)Cl | C6H5ClO4S2
product | 3-[4-[4-Amino-5-(5-fluoro-2-methoxy-benzoyl)-pyrimidin-2-ylamino]-piperidine-1-sulfonyl]-thiophene-2-carboxylic acid methyl ester | COC(=O)C=1SC=CC1S(=O)(=O)N1CCC(CC1)NC1=NC=C(C(=N1)N)C(C1=C(C=CC(=C1)F)OC)=O | C23H24FN5O6S2
